US05840732
i) Synthesis of 5-[3-(3-pyridyl)propylidene]-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione
To a solution of 1.61 g (5.0 mmol) of 3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione and 676 mg (5.0 mmol) of 3-(2-pyridyl)-1-propanol in 20 ml of ethanol, 43 mg (0.5 mmol) of piperidine-was added, followed by refluxing for 4 hours. After the reaction mixture was cooled, the solvent was distilled off. The residue was dissolved in dichloromethane, washed with purified water and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent, chloroform/methanol=50/1) to yield 1.56 g (71.1%, yellow oily substance) of the desired product.

reactant | 3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | 5.0 mmol, 1.61 g | N=1C=CN2C1C=CC=C2SCCCCN2C(SCC2=O)=O | C14H15N3O2S2
reactant | 3-(2-pyridyl)-1-propanol | 5.0 mmol, 676 mg | N1=C(C=CC=C1)CCCO | C8H11NO
reactant | piperidine | 0.5 mmol, 43 mg | N1CCCCC1 | C5H11N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-[3-(3-pyridyl)propylidene]-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | N1=CC(=CC=C1)CCC=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | C22H22N4O2S2
